US04269980
8-(4-Chlorophenyl)-1,2,4-triazolo[4,3-c]pyrimidine
A mixture of 2.0 g. of 5-(4-chlorophenyl)-4-hydrazinopyrimidine is shaken with 10 ml. of diethoxymethyl acetate. The mixture is allowed to stand 15-30 minutes and then is diluted with hexane. The precipitated product (1.81 g: 83%) is collected and recrystallized from ethanol to give the title compound; m.p. 193°-195° C .

reactant | 5-(4-chlorophenyl)-4-hydrazinopyrimidine | ClC1=CC=C(C=C1)C=1C(=NC=NC1)NN | C10H9ClN4
reactant | diethoxymethyl acetate | C(C)(=O)OC(OCC)OCC | C7H14O4
solvent | hexane | CCCCCC | C6H14
product | 8-(4-Chlorophenyl)-1,2,4-triazolo[4,3-c]pyrimidine | ClC1=CC=C(C=C1)C=1C=2N(C=NC1)C=NN2 | C11H7ClN4
